US07417060B2
To a solution of ethyl [4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-cyclohexyloxy-4-biphenylyl]acetate (441 mg) in ethanol (4.4 ml) was added 1N sodium hydroxide (1.83 ml) at room temperature, and the mixture was stirred at the same temperature for 8 hours. To the resulting mixture was added 1N hydrochloric acid (1.83 ml), and ethanol was removed by evaporation under reduced pressure. To the aqueous mixture was added ethyl acetate and water. After separation, the organic layer was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform/methanol=100:1 to 20:1) to give [4′-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-cyclohexyloxy-4-biphenylyl]-acetic acid (359 mg).

reactant | ethyl [4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-cyclohexyloxy-4-biphenylyl]acetate | 441 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)CC(=O)OCC)OC1CCCCC1)C[C@@H](C1=CC=CC=C1)O | C37H47NO6
reactant | sodium hydroxide | 1N, 1.83 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.83 ml | Cl | ClH
solvent | ethanol | 4.4 ml | C(C)O | C2H6O
product | [4′-[2-[(tert-butoxycarbonyl)[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-cyclohexyloxy-4-biphenylyl]-acetic acid | 359 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)CC(=O)O)OC1CCCCC1)C[C@@H](C1=CC=CC=C1)O | C35H43NO6
